US05061705
5 g (20 millimoles) of 5,6,7,8-tetrah-ydro-3-methoxy-5,5,8,8-tetramethyl-2-naphthaldehyde and 2.1 g (30 millimoles) of hydroxylammonium chloride in 32.5 ml of dry pyridine were refluxed for 2 hours. The mixture was then allowed to cool, poured onto water and acidified with concentrated hydrochloric acid, and the precipitate which had separated out was filtered off under suction and dried to give 5.1 g of 5,6,7,8-tetrahydro-3-methoxy-5,5,8,8-tetramethyl-2-naphthaldoxime of melting point 182°-183° C.

reactant | 5,6,7,8-tetrah-ydro-3-methoxy-5,5,8,8-tetramethyl-2-naphthaldehyde | 20 millimoles, 5 g | COC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C16H22O2
reactant | hydroxylammonium chloride | 30 millimoles, 2.1 g | [Cl-].O[NH3+]
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 32.5 ml | N1=CC=CC=C1 | C5H5N
product | 5,6,7,8-tetrahydro-3-methoxy-5,5,8,8-tetramethyl-2-naphthaldoxime | 5.1 g | COC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=NO | C16H23NO2
